US04866058
To a mixture of 1.00 g (4.50 mmol) of 4-(4-nitrophenyl)-1,2,4-triazolidine-3,5-dione and 3.80 g (10 mmol) of lead diacetate trihydrate in 40 ml of chloroform was added dropwise over a 10 minute period 9.80 g (75 mmol) of propanoic anhydride. The solution was stirred at room temperature for five hours. The clear solution was washed three times with 20 ml portions of water and three times with 15 ml portions of 10% sodium carbonate. The sodium carbonate washings were acidified with concentrated hydrochloric acid. No precipitate was obtained. The chloroform solution was dried (Na2SO4) and evaporated to dryness under reduced pressure to give a solid-liquid residue. The residue was washed with five ml of 95% ethanol and recrystallized from methanol to give 1,2-diethylcarbonyl-4-(4-nitrophenyl)-1,2,4-triazolidine-3,5-dione: m.p. 140°-142° C.; IR (Nujol) 1750, 1705 cm-1 (CO); 1H NMR (300 MHz, CDCl3) δ 8.4-7.24 (m, 4H), 3.03 (q, 4H), 1.28 (t, 6H); Found: C, 49.9; H, 4.0; N, 16.7. C14H14N4O6 requires C, 50.2; H, 4.2; N, 16.8.

reactant | 4-(4-nitrophenyl)-1,2,4-triazolidine-3,5-dione | 4.50 mmol, 1.00 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C(NNC1=O)=O | C8H6N4O4
reactant | lead diacetate trihydrate | 10 mmol, 3.80 g | O.O.O.C(C)(=O)[O-].C(C)(=O)[O-].[Pb+2]
reactant | propanoic anhydride | 75 mmol, 9.80 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,2-diethylcarbonyl-4-(4-nitrophenyl)-1,2,4-triazolidine-3,5-dione | C(C)C(=O)N1N(C(N(C1=O)C1=CC=C(C=C1)[N+](=O)[O-])=O)C(=O)CC | C14H14N4O6
